US07192943B2
A solution of benzyl [(1S)-3-[(tert-butoxycarbonyl)amino]-1-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)propyl]carbamate (1.38 g) and di-tert-butyl dicarbonate (0.87 g) in tetrahydrofuran (28 ml) was treated with 10% palladium on carbon (0.70 g) under a hydrogen atmosphere for 3 hours at room temperature. After the catalyst was filtered off, the filtrate was concentrated in vacuo to give a crude oil. The oil was purified by column chromatography on silica gel to give tert-butyl [(1S)-3-[(tert-butoxycarbonyl)amino]-1-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)propyl]carbamate (1.00 g) as an amorphous solid.

reactant | benzyl [(1S)-3-[(tert-butoxycarbonyl)amino]-1-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)propyl]carbamate | 1.38 g | C(C)(C)(C)OC(=O)NCC[C@@H](C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)NC(OCC1=CC=CC=C1)=O | C40H44N6O5
reactant | di-tert-butyl dicarbonate | 0.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.70 g | [Pd] | Pd
product | tert-butyl [(1S)-3-[(tert-butoxycarbonyl)amino]-1-({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)propyl]carbamate | 1.00 g | C(C)(C)(C)OC(=O)NCC[C@@H](C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C37H46N6O5
